US08134001B2
Preparation of intermediate 4-chloro-2-tert-butyl-dimethylsilanyloxy-benzaldehyde
To a stirred solution of 5-chloro-2-hydroxy-benzaldehyde (Aldrich, 7.83 g, 50 mmol) in methylene chloride (150 mL) were added imidazole (Aldrich, 3.72 g, 54.6 mmol) and tert-butyl-dimethyl-chloro-silane (Aldrich, 7.84 g, 52 mmol). The mixture was stirred at room temperature for 5 hrs. A second portion of imidazole (1.2 g) was added and mixture was stirred for 1 hr. The mixture was then poured into saturated sodium bicarbonate solution (150 mL). The organic layer was separated and the aqueous layer was extracted with methylene chloride (2×50 mL). The combined extracts were washed with water, brine and dried over magnesium sulfate. Removal of the solvent gave an off white solid. 13.62 g.

reactant | 5-chloro-2-hydroxy-benzaldehyde | 50 mmol, 7.83 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | imidazole | 54.6 mmol, 3.72 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl-dimethyl-chloro-silane | 52 mmol, 7.84 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 1.2 g | N1C=NC=C1 | C3H4N2
reactant | sodium bicarbonate | 150 mL | C([O-])(O)=O.[Na+]
reactant | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-tert-butyl-dimethylsilanyloxy-benzaldehyde | ClC1=CC(=C(C=O)C=C1)O[Si](C)(C)C(C)(C)C | C13H19ClO2Si
